US03996230
In the manner given in Example 1, 1-bromo-8-chloro-6-(2-pyridyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine is heated with excess of 1-ethylpiperazine to give 8-chloro-1-(4-ethylpiperazino)-6-(2-pyridyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine.

reactant | 1-bromo-8-chloro-6-(2-pyridyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine | BrC1=NN=C2N1C1=C(C(=NC2)C2=NC=CC=C2)C=C(C=C1)Cl | C15H9BrClN5
reactant | 1-ethylpiperazine | C(C)N1CCNCC1 | C6H14N2
product | 8-chloro-1-(4-ethylpiperazino)-6-(2-pyridyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine | ClC=1C=CC2=C(C(=NCC=3N2C(=NN3)N3CCN(CC3)CC)C3=NC=CC=C3)C1 | C21H22ClN7
